US05336663
5-Amino-2-chloroacetophenone
5 g of solid 2-chloro-5-nitroacetophenone (see J. Am. Chem. Soc. 76, 5482 (1952)) are introduced in portions and with stirring at 65° C. to a mixture of 5.6 g of iron powder, 40 ml of ethanol, 9 ml of water and 1 ml of concentrated hydrochloric acid. Stirring of the reaction mixture is continued for 1 hour at 70° C. The mixture is allowed to cool to room temperature and then diluted with 300 ml of water, and a pH of 9 is established by adding 2N potassium carbonate solution. The mixture is filtered with suction through Celite, and the residue is washed with 200 ml of ethyl acetate. The filtrate is transferred to a separating funnel, and the aqueous phase is discarded. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated.

reactant | 2-chloro-5-nitroacetophenone | CC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C8H6ClNO3
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | potassium carbonate | 2N | C([O-])([O-])=O.[K+].[K+]
solvent | water | 300 ml | O | H2O
catalyst | iron | 5.6 g | [Fe] | Fe
solvent | water | 9 ml | O | H2O
product | 5-Amino-2-chloroacetophenone | CC(=O)C1=C(C=CC(=C1)N)Cl | C8H8ClNO
